US08803420B2
A flask was charged with 5.21 g of benzo[g]chrysene and 50 mL of N,N-dimethylformamide. An N,N-dimethylformamide (10 mL) solution of 4.00 g of N-bromosuccinimide was added to the mixture. The mixture was stirred at 80° C. for 8 hours. After cooling the mixture to room temperature, the reaction solution was poured into 200 mL of water. A solid that precipitated by this operation was collected by filtration, and washed with water and methanol. The resulting solid was purified by silica gel column chromatography to obtain 5.87 g of the target 10-bromobenzo[g]chrysene (yield: 88%).

reactant | benzo[g]chrysene | 5.21 g | C1=CC=CC2=C1C1=C3C=CC=CC3=CC=C1C1=CC=CC=C21 | C22H14
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | N-bromosuccinimide | 4.00 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 200 mL | O | H2O
product | 10-bromobenzo[g]chrysene | yield: 88% | BrC=1C=C2C3=CC=CC=C3C3=C(C2=C2C=CC=CC12)C=CC=C3 | C22H13Br
